### PR TITLE
feat: `DenselyOrdered`

### PR DESCRIPTION
**Pull request by plp127**

### CODE REVIEW

File: CombinatorialGames/Game/Order.lean [hunk 1]
```diff
@@ -0,0 +1,65 @@
+/-
+Copyright (c) 2025 Aaron Liu. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Aaron Liu
+-/
+import CombinatorialGames.Game.Birthday
+import CombinatorialGames.Game.Special
+
+/-!
+# Games are Densely Ordered
```
Comment (vihdzp) [inline CombinatorialGames/Game/Order.lean]: This matches our capitalization throughout the rest of the repo
```suggestion
# Games are densely ordered
```

File: CombinatorialGames/Game/Special.lean [hunk 2]
```diff
@@ -144,8 +144,8 @@ theorem neg_miny (x : IGame) : -(⧿x) = ⧾x := by
 instance (x : IGame) [Short x] : Short (⧿x) := by
   rw [← neg_tiny]; infer_instance
 
-/-- **Tiny is tiny**. The tiny games are among the smallest of the infinitesimals. -/
-proof_wanted exists_tiny_lt_of_pos {x : IGame} [Short x] (hx : 0 < x) : ∃ n : ℕ, ⧾n < x
+theorem tiny_pos (x : IGame) : 0 < ⧾x := by game_cmp
```
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean]: I'm pleasantly surprised to see `game_cmp` can prove this!

File: CombinatorialGames/Game/Order.lean [hunk 3]
```diff
@@ -0,0 +1,65 @@
...
+    right
+    simp only [rightMoves_tiny, Set.mem_singleton_iff, exists_eq_left]
+    rw [le_iff_forall_lf]
+    simp only [leftMoves_ofSets, Set.mem_singleton_iff, forall_eq]
+    refine ⟨hx.not_ge, fun z hz => ?_⟩
+    rw [lf_iff_exists_le]
+    right
+    simp only [rightMoves_ofSets, Set.mem_singleton_iff, exists_eq_left]
+    apply (neg_toIGame_birthday_le z).trans'
+    simpa using (birthday_lt_of_mem_rightMoves hz).le
```
Comment (vihdzp) [inline CombinatorialGames/Game/Order.lean]: Extracted two potentially reusable lemmas from your proof. Used them golf it quite substantially:

```suggestion
theorem tiny_lf_of_nonneg_of_forall_neg_le {x a : IGame} (hx : 0 ⧏ x)
    (ha : ∀ y ∈ x.rightMoves, -a ≤ y) : ⧾a ⧏ x := by
  refine lf_of_rightMove_le ?_ (rightMoves_tiny _ ▸ Set.mem_singleton _)
  rw [le_iff_forall_lf]
  simpa using ⟨hx, fun z hz ↦ lf_of_rightMove_le (ha z hz) (by simp)⟩

theorem tiny_le_of_pos_of_forall_neg_le {x a : IGame} (hx : 0 < x)
    (ha : ∀ y ∈ x.rightMoves, ∀ z ∈ y.rightMoves, -a ≤ z) : ⧾a ≤ x := by
  rw [le_iff_forall_lf]
  constructor
  · simpa using hx.not_ge
  · exact fun y hy ↦ tiny_lf_of_nonneg_of_forall_neg_le (lf_rightMove_of_le hx.le hy) (ha y hy)

theorem tiny_toIGame_birthday_lt {x : IGame.{u}} (hx : 0 < x) : ⧾x.birthday.toIGame < x := by
  apply lt_of_le_not_ge
  · refine tiny_le_of_pos_of_forall_neg_le hx
      fun y hy z hz ↦ (neg_toIGame_birthday_le z).trans' ?_
    simpa using ((birthday_lt_of_mem_rightMoves hz).trans (birthday_lt_of_mem_rightMoves hy)).le
  · refine tiny_lf_of_nonneg_of_forall_neg_le hx.not_ge
      fun y hy ↦ (neg_toIGame_birthday_le y).trans' ?_
    simpa using (birthday_lt_of_mem_rightMoves hy).le
```

File: CombinatorialGames/Game/Order.lean [hunk 4]
```diff
@@ -0,0 +1,65 @@
...
+
+We provide instances of `DenselyOrdered` for `IGame` and `Game`.
+-/
+
+universe u
+
+noncomputable section
+namespace IGame
+
+theorem tiny_toIGame_birthday_lt {x : IGame.{u}} (hx : 0 < x) :
```
Comment (vihdzp) [inline CombinatorialGames/Game/Order.lean]: By the way, we should have versions for `miny` too. They should be almost immediate through `neg_tiny`.

File: CombinatorialGames/Game/Order.lean [hunk 5]
```diff
@@ -0,0 +1,65 @@
...
+    rw [le_iff_forall_lf]
+    simp only [leftMoves_ofSets, Set.mem_singleton_iff, forall_eq]
+    refine ⟨hx.not_ge, fun z hz => ?_⟩
+    rw [lf_iff_exists_le]
+    right
+    simp only [rightMoves_ofSets, Set.mem_singleton_iff, exists_eq_left]
+    apply (neg_toIGame_birthday_le z).trans'
+    simpa using (birthday_lt_of_mem_rightMoves hz).le
+
+instance : DenselyOrdered IGame.{u} where
```
Comment (vihdzp) [inline CombinatorialGames/Game/Order.lean]: The universe annotations seem redundant.

File: CombinatorialGames/Game/Order.lean [hunk 6]
```diff
@@ -0,0 +1,65 @@
...
+    · rw [add_comm, ← IGame.lt_sub_iff_add_lt]
+      exact tiny_toIGame_birthday_lt (IGame.sub_pos.2 hab)
+
+instance : DenselyOrdered Game.{u} where
+  dense a b hab := by
+    induction a using Game.ind with | mk a =>
+    induction b using Game.ind with | mk b =>
+    rw [Game.mk_lt_mk] at hab
+    obtain ⟨c, hac, hcb⟩ := exists_between hab
+    exact ⟨.mk c, hac, hcb⟩
```
Comment (vihdzp) [inline CombinatorialGames/Game/Order.lean:71]: The infoview goes kind of bonkers if you do this, but if you don't mind that, you can golf the proof down to
```suggestion
  dense := by
    rintro ⟨a⟩ ⟨b⟩ hab
    obtain ⟨c, hac, hcb⟩ := exists_between (α := IGame) hab
    exact ⟨.mk c, hac, hcb⟩
```

File: CombinatorialGames/Surreal/Basic.lean [hunk 7]
```diff
@@ -456,5 +456,19 @@ theorem mk_ofSets {s t : Set IGame.{u}} [Small.{u} s] [Small.{u} t] {H : Numeric
 theorem zero_def : 0 = {∅ | ∅}ˢ := by apply (mk_ofSets ..).trans; congr <;> simp
 theorem one_def : 1 = {{0} | ∅}ˢ := by apply (mk_ofSets ..).trans; congr <;> aesop
 
+instance : DenselyOrdered Surreal.{u} where
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Basic.lean]: This is the perfect job for `Surreal.ofSets`. I think this can get pulled out of the PR into a separate PR which expands the `ofSets` API and uses it to give a one-liner proof.

**Review by vihdzp — COMMENTED** [review]
This is great! I managed to golf some proofs.

File: CombinatorialGames/Game/Special.lean (hunk 2 above)
Comment (gaearon) [reply CombinatorialGames/Game/Special.lean]: Maybe a silly question but why is the `exists_tiny_lt_of_pos` stub being removed? I don't think `tiny_pos` or `miny_neg` imply it?

Comment (plp127) [reply CombinatorialGames/Game/Special.lean]: The birthday of a `Short` game is a natural number, so since `⧾x.birthday.toIGame < x` use `short_iff_birthday_finite` to find an `n` such that `Nat.cast n = x.birthday` and then `toIGame_natCast_equiv` along with a missing API lemma `tiny_congr` will get you `⧾n < x`.

Comment (plp127) [reply CombinatorialGames/Game/Special.lean]: Do you want be to add it back?

Comment (vihdzp) [reply CombinatorialGames/Game/Special.lean]: I think it's fine for it to be removed, the theorem you proved bounding a game by the tiny of its birthday seems like a strict generalization.

File: CombinatorialGames/Game/Order.lean [hunk 8]
```diff
@@ -0,0 +1,71 @@
...
+  simpa using ⟨fun z hz ↦ lf_of_le_leftMove (ha z hz) (by simp), hx⟩
+
+theorem le_miny_of_neg_of_forall_le_neg {x a : IGame} (hx : x < 0)
+    (ha : ∀ y ∈ x.leftMoves, ∀ z ∈ y.leftMoves, z ≤ a) : x ≤ ⧿a := by
+  rw [le_iff_forall_lf]
+  constructor
+  · exact fun y hy ↦ lf_miny_of_not_nonneg_of_forall_le (leftMove_lf_of_le hx.le hy) (ha y hy)
+  · simpa using hx.not_ge
+
+theorem lt_miny_toIGame_birthday {x : IGame.{u}} (hx : x < 0) : x < ⧿x.birthday.toIGame :=by
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Order.lean]:
```suggestion
theorem lt_miny_toIGame_birthday {x : IGame.{u}} (hx : x < 0) : x < ⧿x.birthday.toIGame := by
```

File: CombinatorialGames/Game/Order.lean [hunk 9]
```diff
@@ -0,0 +1,71 @@
...
+  simpa using IGame.lt_neg.2 (tiny_toIGame_birthday_lt (IGame.zero_lt_neg.2 hx))
+
+instance : DenselyOrdered IGame where
+  dense a b hab := by
+    refine ⟨a + ⧾(b - a).birthday.toIGame, ?_, ?_⟩
+    · simp [tiny_pos]
+    · rw [add_comm, ← IGame.lt_sub_iff_add_lt]
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Order.lean]: `add_comm` can be baked into the definition.

```lean4
    refine ⟨⧾(b - a).birthday.toIGame + a, ?_, ?_⟩
    · simp [tiny_pos]
    · rw [← IGame.lt_sub_iff_add_lt]
```

**Review by tristan-f-r — APPROVED** [review]
I also agree with @vihdzp's golfing suggestion. Though, should this be in its own `Order.lean` file?

**Comment by plp127** [comment]
@tristan-f-r where should I put this then?

File: CombinatorialGames/Game/Special.lean [hunk 10]
```diff
@@ -144,8 +144,8 @@ theorem neg_miny (x : IGame) : -(⧿x) = ⧾x := by
 instance (x : IGame) [Short x] : Short (⧿x) := by
   rw [← neg_tiny]; infer_instance
 
-/-- **Tiny is tiny**. The tiny games are among the smallest of the infinitesimals. -/
-proof_wanted exists_tiny_lt_of_pos {x : IGame} [Short x] (hx : 0 < x) : ∃ n : ℕ, ⧾n < x
+@[simp, game_cmp] theorem tiny_pos (x : IGame) : 0 < ⧾x := by game_cmp
```
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean:147]: Good thinking tagging this as `game_cmp`! Wonder if there's other taggings I've missed, maybe I'll scour through them sometime.

File: CombinatorialGames/Game/Order.lean [hunk 11]
```diff
@@ -0,0 +1,71 @@
...
+theorem tiny_toIGame_birthday_lt {x : IGame.{u}} (hx : 0 < x) : ⧾x.birthday.toIGame < x := by
+  apply lt_of_le_not_ge
+  · refine tiny_le_of_pos_of_forall_neg_le hx
+      fun y hy z hz ↦ (neg_toIGame_birthday_le z).trans' ?_
+    simpa using ((birthday_lt_of_mem_rightMoves hz).trans (birthday_lt_of_mem_rightMoves hy)).le
+  · refine tiny_lf_of_not_nonpos_of_forall_neg_le hx.not_ge
+      fun y hy ↦ (neg_toIGame_birthday_le y).trans' ?_
+    simpa using (birthday_lt_of_mem_rightMoves hy).le
+
+theorem lf_miny_of_not_nonneg_of_forall_le {x a : IGame} (hx : x ⧏ 0)
```
Comment (vihdzp) [inline CombinatorialGames/Game/Order.lean:42]:
```suggestion
theorem lf_miny_of_nonpos_of_forall_le {x a : IGame} (hx : x ⧏ 0)
```

**Comment by vihdzp** [comment]
Does the Specific file import birthdays? If so, I think all of this could go there. If not, then I like having this as a separate file combining both imports.

File: CombinatorialGames/Game/Order.lean (hunk 11 above)
Comment (plp127) [reply CombinatorialGames/Game/Order.lean:42]: I don't see a `nonpos` here, can you explain this one?

**Comment by tristan-f-r** [comment]
> Actually, I think the birthday file imports `Game/Special`

Ah, alright. Keeping it as a separate file seems okay then! :+1:

File: CombinatorialGames/Game/Order.lean (hunk 11 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Order.lean:42]: Nevermind, I see why your name was correct.

File: CombinatorialGames/Game/Order.lean [hunk 12]
```diff
@@ -0,0 +1,71 @@
...
+  refine lf_of_le_leftMove ?_ (leftMoves_miny _ ▸ Set.mem_singleton _)
+  rw [le_iff_forall_lf]
+  simpa using ⟨fun z hz ↦ lf_of_le_leftMove (ha z hz) (by simp), hx⟩
+
+theorem le_miny_of_neg_of_forall_le_neg {x a : IGame} (hx : x < 0)
+    (ha : ∀ y ∈ x.leftMoves, ∀ z ∈ y.leftMoves, z ≤ a) : x ≤ ⧿a := by
+  rw [le_iff_forall_lf]
+  constructor
+  · exact fun y hy ↦ lf_miny_of_not_nonneg_of_forall_le (leftMove_lf_of_le hx.le hy) (ha y hy)
+  · simpa using hx.not_ge
```
Comment (vihdzp) [inline CombinatorialGames/Game/Order.lean:53]: These are not huge golfs, but:
```suggestion
theorem lf_miny_of_not_nonneg_of_forall_le {x a : IGame} (hx : x ⧏ 0)
    (ha : ∀ y ∈ x.leftMoves, y ≤ a) : x ⧏ ⧿a := by
  rw [← IGame.neg_le_neg_iff, neg_miny]
  apply tiny_lf_of_not_nonpos_of_forall_neg_le <;> (try rw [forall_rightMoves_neg]) <;> simpa

theorem le_miny_of_neg_of_forall_le_neg {x a : IGame} (hx : x < 0)
    (ha : ∀ y ∈ x.leftMoves, ∀ z ∈ y.leftMoves, z ≤ a) : x ≤ ⧿a := by
  rw [← IGame.neg_le_neg_iff, neg_miny]
  apply tiny_le_of_pos_of_forall_neg_le <;> (try simp_rw [forall_rightMoves_neg]) <;> simpa
```

Comment (plp127) [reply CombinatorialGames/Game/Order.lean:53]: *you're using just as many tactics as I did*

Comment (tristan-f-r) [reply CombinatorialGames/Game/Order.lean:53]: From a first glance, I don't think that's true.

Comment (vihdzp) [reply CombinatorialGames/Game/Order.lean:53]: Well, I did say it wasn't a huge golf.
